US05719287
Preparation of quinaldic acid pentafluorophenyl ester
An oven dried single necked round bottom flask was charged with 15.0 g quinaldic acid (86.6 mmol), 20.8 g pentafluorophenol (113 mmol), and 200 mL THF. The suspension was stirred, and 18.3 g EDC (95.3 mmol) was added in one portion. Vigorous stirring was continued at room temperature for two hours, during which time a gummy precipitate formed at the bottom of the flask. The solution was decanted from the gum, and the gum was washed with CH2C12. The combined organic layers were diluted with hexane and washed once with 50 mL 0.1N NaHSO4, twice with 50 mL 1N K2CO3, and once with 50 mL brine. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo, affording a pale pink solid. The solid was dissolved in 30 mL hot diethyl ether and 400 mL hot hexane was added. The solution was allowed to cool to room temperature, and then to 0° C. over a period af 1.5 hours. The desired product was collected as colorless needles (21.6 g, 73%) by filtration.

reactant | quinaldic acid | 86.6 mmol, 15.0 g | C(C1=NC2=CC=CC=C2C=C1)(=O)O | C10H7NO2
reactant | pentafluorophenol | 113 mmol, 20.8 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | EDC | 95.3 mmol, 18.3 g
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | hexane | 400 mL | CCCCCC | C6H14
product | quinaldic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(C1=NC2=CC=CC=C2C=C1)=O)F)F)F)F | C16H6F5NO2
